US04036838
78.25 g (0.5mol) of 4-chlorobenzoic acid were suspended in 200 ml of methylene chloride, followed by the addition with stirring at room temperature of 33.5 g (0.55 mol) of 98% nitric acid. The mixture was heated with stirring to boiling temperature, followed by the dropwise addition over a period of 1 hour at that temperature of 63.5 g of 100% sulphuric acid. After cooling to 42° C., the mixture was stirred for 2 hours at that temperature. The reaction mixture was then poured onto 300 ml of water, and the methylene chloride subsequently distilled off. The residual suspension was filtered, the residue washed with water and dried at 90° C., giving 98.4 g (97.3% of the theoretical yield) of 4-chloro-3-nitrobenzoic acid melting at 182.9° to 184.0° C. with a purity of 99.5%. The content of unreacted 4-chlorobenzoic acid amounted to only about 0.1%.

reactant | 4-chlorobenzoic acid | 0.5mol, 78.25 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | nitric acid | 0.55 mol, 33.5 g | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | 63.5 g | S(O)(O)(=O)=O | H2O4S
reactant | water | 300 ml | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-3-nitrobenzoic acid | ClC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4ClNO4
